US08008232B2
N-(3′-chloro-4′-fluorobiphenyl-2-yl)-3-fluoromethyl-1-methyl-1H-pyrazole-4-carboxamide
At room temperature, 0.27 g of 3-fluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride was added dropwise to a solution of 0.33 g of 3′-chloro-4′-fluoro-2-aminobiphenyl and 0.18 g of pyridine in 10 ml of toluene, and the mixture was stirred at room temperature for 16 hours. 10 ml of tetrahydrofuran and 30 ml of methyl tert-butyl ether were added, and the organic phase was washed successively with 2% strength hydrochloric acid, twice with 2% strength aqueous sodium hydroxide solution and then with dilute aqueous sodium chloride solution. The organic phase was dried and concentrated under reduced pressure. The crude product was triturated with 10 ml of diisopropyl ether and the solid that remained was filtered off with suction and dried. This gave 0.46 g of the desired product as a white powder of m.p. 133-134° C.

reactant | 3-fluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.27 g | FCC1=NN(C=C1C(=O)Cl)C | C6H6ClFN2O
reactant | 3′-chloro-4′-fluoro-2-aminobiphenyl | 0.33 g | ClC=1C=C(C=CC1F)C1=C(C=CC=C1)N | C12H9ClFN
reactant | pyridine | 0.18 g | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | methyl tert-butyl ether | 30 ml | C(C)(C)(C)OC | C5H12O
product | N-(3′-chloro-4′-fluorobiphenyl-2-yl)-3-fluoromethyl-1-methyl-1H-pyrazole-4-carboxamide | ClC=1C=C(C=CC1F)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)CF | C18H14ClF2N3O
